### PR TITLE
Cleanup backported stuff in mathcomp_extra.v

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

Since we require MC 2.x now, the stuff backported to MC 1.15 should not be needed.

##### Checklist

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] ~added~  removed corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: classical/mathcomp_extra.v [hunk 1]
```diff
@@ -32,27 +24,13 @@ Set Implicit Arguments.
...
-
-Lemma all_sig2_cond {I : Type} {T : Type} (D : pred I)
-   (P Q : I -> T -> Prop) : T ->
-    (forall x : I, D x -> {y : T | P x y & Q x y}) ->
-  {f : forall x : I, T | forall x : I, D x -> P x (f x) & forall x : I, D x -> Q x (f x)}.
-Proof.
-by move=> /all_sig_cond/[apply]-[f Pf]; exists f => i Di; have [] := Pf i Di.
-Qed.
-
 Definition olift aT rT (f : aT -> rT) := Some \o f.
```
Comment (pi8027) [inline classical/mathcomp_extra.v:34]: Removing this seems to break `functions.v`, but I'm not going to figure it out.

File: classical/mathcomp_extra.v [hunk 2]
```diff
@@ -63,367 +41,10 @@ Lemma olift_comp aT rT sT (f : aT -> rT) (g : rT -> sT) :
...
-Proof.
-case: i => [a a']; move=> x; rewrite inE/= itv_splitI negb_and.
-by symmetry; rewrite inE/= -predC_itvl -predC_itvr.
-Qed.
-
-End itv_porderType.
-
 Lemma sumr_le0 (R : numDomainType) I (r : seq I) (P : pred I) (F : I -> R) :
   (forall i, P i -> F i <= 0)%R -> (\sum_(i <- r | P i) F i <= 0)%R.
 Proof. by move=> F0; elim/big_rec : _ => // i x Pi; apply/ler_wnDl/F0. Qed.
```
Comment (pi8027) [inline classical/mathcomp_extra.v:46]: It seems to me that this is not backported.

File: classical/mathcomp_extra.v [hunk 3]
```diff
@@ -63,367 +41,12 @@ Lemma olift_comp aT rT sT (f : aT -> rT) (g : rT -> sT) :
...
-  (z <= x)%O -> (y <= t)%O -> (x <= y)%O -> (z <= t)%O.
-Proof. by move=> + /(le_trans _)/[apply]; apply: le_trans. Qed.
-
-Notation eqLHS := (X in (X == _))%pattern.
-Notation eqRHS := (X in (_ == X))%pattern.
-Notation leLHS := (X in (X <= _)%O)%pattern.
-Notation leRHS := (X in (_ <= X)%O)%pattern.
-Notation ltLHS := (X in (X < _)%O)%pattern.
-Notation ltRHS := (X in (_ < X)%O)%pattern.
 Inductive boxed T := Box of T.
```
Comment (pi8027) [inline classical/mathcomp_extra.v:48]: Same here.

**Comment by pi8027** [comment]
@proux01 Thanks, but there is a merge conflict.

File: classical/mathcomp_extra.v (hunk 1 above)
Comment (proux01) [reply classical/mathcomp_extra.v]: Fixed, was due to the new definition `fun x => Some (f x)` in mathcomp 2.3 instead of `Some \o f`.

File: classical/mathcomp_extra.v (hunk 2 above)
Comment (proux01) [reply classical/mathcomp_extra.v]: Indeed, moved to the "not yet backported" section below

**Comment by proux01** [comment]
> @proux01 Thanks, but there is a merge conflict.

Indeed, thanks for noticing. Fixed, let's merge.
